*****************************************************************************
* TL431 MACROMODEL ***************3-26-92************************************
* REV N/A ****************************************************************DBB
*****************************************************************************
*               REFERENCE
*               |  ANODE
*               |  |  CATHODE
*               |  |  |
*.SUBCKT  TL431 1  2  3
* Reverse symbol
* Anode Cathode Ref   adjusted to LTSPICE symbol
.SUBCKT  TL431 2 3 1
V1  6  7  DC  1.4V
I1  2  4  1E-3
R1  1  2  1.2E6
R2  4  2  RMOD 2.495E3
R3  5  7  .2
D1  3  6  DMOD1
D2  2  3  DMOD1
D3  2  7  DMOD2
E1  5  2  POLY(2)  (4,2)  (1,2)  0  710  -710
.MODEL RMOD RES (TC1=1.4E-5 TC2=-1E-6)
.MODEL DMOD1 D (RS=.3)
.MODEL DMOD2 D (RS=1E-6)
.END
